US04536508
Ethyl 5-[4-[3-(1-piperidinylmethyl)phenoxy]butyl]amino-1H-1,2,4-triazole-3-carboxylate
Methyl 5-amino-1H-1,2,4-triazole-3-carboxylate (0.568 g) and 4-[3-(1-piperidinylmethyl)phenoxy]butanal in ethanol (40 ml) were heated at reflux for 2 h. The cooled reaction mixture was treated with sodium borohydride (0.4 g) and stirred at room temperature for 15 h. The solvent was evaporated and the residue was dissolved in 2N hydrochloric acid which was washed with ethyl acetate, basified with sodium carbonate and extracted with ethyl acetate. The combined organic extracts were evaporated to yield the title compound as a white solid which was recrystallised from a mixture of ethyl acetate and ethanol (1:1) (0.5 g) m.p. 170°-1° dec.; tlc System B, Rf 0.8.

reactant | Methyl 5-amino-1H-1,2,4-triazole-3-carboxylate | 0.568 g | NC1=NC(=NN1)C(=O)OC | C4H6N4O2
reactant | 4-[3-(1-piperidinylmethyl)phenoxy]butanal | N1(CCCCC1)CC=1C=C(OCCCC=O)C=CC1 | C16H23NO2
reactant | sodium borohydride | 0.4 g | [BH4-].[Na+]
reactant | ethanol | 40 ml | C(C)O | C2H6O
product | Ethyl 5-[4-[3-(1-piperidinylmethyl)phenoxy]butyl]amino-1H-1,2,4-triazole-3-carboxylate | N1(CCCCC1)CC=1C=C(OCCCCNC2=NC(=NN2)C(=O)OCC)C=CC1 | C21H31N5O3
